US04518713
1-{2-{N-[4-(4-Fluorophenyl)-4-oxobutyl]-N-ethylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride
A solution of 5.68 g (10.1 mmol) of 1-{2-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-ethylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride, 150 ml of methanol and 70 ml of 3N HCl was heated at reflux for 4 hours under nitrogen and allowed to cool to room temperature. The mixture was neutralized with saturated sodium bicarbonate after which the methanol was evaporated. The residual aqueous solution was made basic with saturated sodium carbonate, extracted twice with ether and dried over potassium carbonate. Evaporation of the solvent provided an oil. The yield of the dihydrochloride was 5.20 g (99%). Recrystallization from ethanol provided 4.16 g (80%) of analytically pure material.

reactant | 1-{2-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-ethylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride | 10.1 mmol, 5.68 g | Cl.Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN(CC)CCN1CCC(CC1)OC1=CC(=CC=C1)Cl
reactant | HCl | 3N, 70 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | methanol | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 1-{2-{N-[4-(4-Fluorophenyl)-4-oxobutyl]-N-ethylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(CCCN(CC)CCN1CCC(CC1)OC1=CC(=CC=C1)Cl)=O | InChI=1S/C25H32ClFN2O2.2ClH/c1-2-28(14-4-7-25(30)20-8-10-22(27)11-9-20)17-18-29-15-12-23(13-16-29)31-24-6-3-5-21(26)19-24;;/h3,5-6,8-11,19,23H,2,4,7,12-18H2,1H3;2*1H
